US04714492
Sodium 6-(4-Bromophenyl)-1,2-dimethyl-4-oxonicotinate
2 g (0.0062 mol) of 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinic acid is suspended in 50 ml of methanol and to it there is added 0.5 g (0.0062 mol) of 50% aqueous sodium hydroxide. The solution formed is allowed to stand at room temperature for 1 hr. and is concentrated in vacuo. The concentrate is washed with 50 ml of diethyl ether and dried to afford 1.9 g (89% yield) of product.

reactant | 6-(4-bromophenyl)-1,2-dimethyl-4-oxonicotinic acid | 0.0062 mol, 2 g | BrC1=CC=C(C=C1)C=1N(C(=C(C(=O)O)C(C1)=O)C)C | C14H12BrNO3
reactant | sodium hydroxide | 0.0062 mol, 0.5 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | Sodium 6-(4-Bromophenyl)-1,2-dimethyl-4-oxonicotinate | 1.9 g, 89% yield | BrC1=CC=C(C=C1)C=1N(C(=C(C(=O)[O-])C(C1)=O)C)C.[Na+] | InChI=1S/C14H12BrNO3.Na/c1-8-13(14(18)19)12(17)7-11(16(8)2)9-3-5-10(15)6-4-9;/h3-7H,1-2H3,(H,18,19);/q;+1/p-1
